US06143763
N-Cyclohexyl-N-(2-hydroxybutyl)amine (3 g) is dissolved in tetrahydrofuran (50 ml), and thereto is added with stirring sodium hydride (60% oily dispersion, 2.1 g) under ice-cooling, and the mixture is heated with stirring at 60° C. for one hour. To the reaction mixture is added dropwise with stirring ethyl bromide (2.1 g) under ice-cooling, and the mixture is stirred at room temperature for 4 hours. Water is added to the reaction mixture, and the mixture is extracted with ethyl acetate. The extract is concentrated under reduced pressure to remove the solvent, and the residue is purified by silica gel column chromatography (solvent; methylene chloride:methanol:aqueous ammonia=100:10:1) to give N-cyclohexyl-N-(2-ethoxybutyl)amine(1.6 g) as a colorless oil.

reactant | N-Cyclohexyl-N-(2-hydroxybutyl)amine | 3 g | C1(CCCCC1)NCC(CC)O | C10H21NO
reactant | sodium hydride | 2.1 g | [H-].[Na+]
reactant | ethyl bromide | 2.1 g | C(C)Br | C2H5Br
reactant | Water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-cyclohexyl-N-(2-ethoxybutyl)amine | 1.6 g | C1(CCCCC1)NCC(CC)OCC | C12H25NO
